US05668160
A solution of methyl (2-phenoxyphenyl)acetate (6.0 g) in methanol (100 ml) was added dropwise with stirring to hydrazine hydrate (12 ml). The resulting mixture was stirred for 2 hours, then diluted with water and extracted with ether. The extracts were washed with water, dried and concentrated to give almost pure (2-phenoxyphenyl)acetohydrazide (5.8 g, 96% yield) as a waxy solid with amp of about 65° C., 1H NMR (CDCl3): delta 3.60 (2H,s) ppm. Concentrated sulphuric acid (4 drops) was added to a mixture of this hydrazide and triethyl orthoformate (20 ml) and the resulting mixture was heated at 90° C. for one hour. After cooling, water was added to the mixture and it was extracted with ether. The extracts were washed, dried, concentrated and chromatographed using increasing proportions (up to 50%) of ethyl acetate in hexane as eluant to give 2-(2-phenoxyphenylmethyl)oxa-1,3,4-diazole (3.14 g, 52% yield) as a yellow oil, IH NMR (CDCl3): delta 4.31 (2H,s) and 8.28 (1H,s) ppm.

reactant | methyl (2-phenoxyphenyl)acetate | 6.0 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)OC | C15H14O3
reactant | hydrazine hydrate | 12 ml | O.NN
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | (2-phenoxyphenyl)acetohydrazide | 5.8 g, 96% yield | O(C1=CC=CC=C1)C1=C(C=CC=C1)CC(=O)NN | C14H14N2O2
